US08222249B2
5.22 5-(3-((2-(2,6-Dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)ureido)-2-methylphenyl 2-(piperazin-1-yl)acetate Hydrochloride
To a mixture of tert-butyl 4-(2-(5-(3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)ureido)-2-methylphenoxy)-2-oxoethyl)piperazine-1-carboxylate (0.65 g, 1.0 mmol) in methylene chloride (50 mL) is added 2M HCl in ether (1 mL), and the mixture will be stirred for 24 hrs. The solid precipitate is filtered, rinsed with DCM (10 mL), and dried under vacuum to provide the product.

reactant | tert-butyl 4-(2-(5-(3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)ureido)-2-methylphenoxy)-2-oxoethyl)piperazine-1-carboxylate | 1.0 mmol, 0.65 g | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(NC=1C=CC(=C(OC(CN2CCN(CC2)C(=O)OC(C)(C)C)=O)C1)C)=O)=O)=O | C33H40N6O8
reactant | HCl | 2M | Cl | ClH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 1 mL | CCOCC | C4H10O
product | 5-(3-((2-(2,6-Dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)ureido)-2-methylphenyl 2-(piperazin-1-yl)acetate Hydrochloride | Cl.N1(CCNCC1)CC(=O)OC1=C(C=CC(=C1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)C | InChI=1S/C28H32N6O6.ClH/c1-17-2-4-20(13-23(17)40-25(36)16-33-10-8-29-9-11-33)31-28(39)30-14-18-3-5-21-19(12-18)15-34(27(21)38)22-6-7-24(35)32-26(22)37;/h2-5,12-13,22,29H,6-11,14-16H2,1H3,(H2,30,31,39)(H,32,35,37);1H
